US07312359B2
C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride (0.2 gms, 0.56 mmole), (Benzyloxycarbonyl-methyl-amino)-acetic acid (0.15 gms, 0.67 mmole), 1-hydroxybenzotriazole (0.11 gms, 0.84 mmole), 0.16 gms N-(3-dimethylaminopropyl)-N-ethylcarbodiimide (0.16 gms, 0.84 mmole) and triethylamine (0.50 ml, 3.36 mmole) in 30 mL methylene chloride was stirred at room temperature for 24 hours. The reaction was quenched with 0.2 ml water, and the entire mixture was absorbed on to silica gel and medium pressure chromatography, eluting with ethyl acetate, gave 0.15 gms of ({[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-carbamoyl}-methyl)-methyl-carbamic acid benzyl ester as an oil.

reactant | C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride | 0.56 mmole, 0.2 gms | Cl.FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CN
reactant | (Benzyloxycarbonyl-methyl-amino)-acetic acid | 0.67 mmole, 0.15 gms | C(C1=CC=CC=C1)OC(=O)N(C)CC(=O)O | C11H13NO4
reactant | 1-hydroxybenzotriazole | 0.84 mmole, 0.11 gms | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N-ethylcarbodiimide | 0.84 mmole, 0.16 gms | CC[N+](=C=N)CCCN(C)C
reactant | triethylamine | 3.36 mmole, 0.50 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | ({[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-carbamoyl}-methyl)-methyl-carbamic acid benzyl ester | 0.15 gms | C(C1=CC=CC=C1)OC(N(C)CC(NCC1CCCC2=CC(=CC=C12)S(=O)(=O)C1=CC(=CC=C1)F)=O)=O | C28H29FN2O5S
